Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
DVT
 
Major Surgical or Invasive Procedure:
IVC filter placement

 
History of Present Illness:
___ s/p L MCA stroke and atrial fibrillation, now on
coumadin since ___.  Over a period of five days she has
noted pain and swelling of the RLE, and after a physical
therapist noted the swelling today, the patient presented the
___ for further evaluation.  SHe is found on 
ultrasound
of the right lower extremity to have a DVT that was initially
read as SFV+Popliteal vein.  However, the patient has been
therapeutic, and in this case, supratherapeutic on coumadin with
an INR of 3.9.  She has no evidence of shortness of breath, CP,
doe, inreased oxygen requirment, tachycardia, or other symptoms
of pulmonary embolus

 
Past Medical History:
- Atrial Fib, was on coumadin for 2 weeks ~ ___ year prior but per
family cardiologist stopped it for unknown reason
- HTN
- Sciatica

 
Social History:
___
Family History:
Multiple members of family with stroke and CAD.  
 

 
Physical Exam:
PE:
Temp:98.1 HR:61 BP:143/86 Resp:18 O(2)Sat:99 
A+O x 3, notably with residual expressive aphasia
CTAB
___ nl S1 S2
S NT ND no hsm + BS
RLE > LLE minimally swollen and more erythematous
palpable pulses in bilateral lower extremities
no palpable cords

 
Pertinent Results:
___ 06:20AM BLOOD 

WBC-6.9 RBC-4.08* Hgb-12.7 Hct-37.8 MCV-93 MCH-31.2 MCHC-33.6 
RDW-14.5 Plt ___

___ 06:20AM BLOOD 

___ PTT-31.9 ___

___ 06:20AM BLOOD 

Glucose-120* UreaN-12 Creat-0.7 Na-138 K-4.3 Cl-102 HCO3-25 
AnGap-15

___ 06:20AM BLOOD 

Glucose-120* UreaN-12 Creat-0.7 Na-138 K-4.3 Cl-102 HCO3-25 
AnGap-15
 
Brief Hospital Course:
Pt was admitted to the hospital with concern for repeat 
thrombosis despite anticoagulation. Her coumadin was held and an 
IVC filter was placed without complication. Her previous 
anticoagulation records were obtained and her INR had been 
therapeutic. She was seen by the hematology service and was 
determined to have failed coumadin anticoagulation. Because of 
this she was instructed to start lovenox as her primary 
anticoagulation once her INR was below 2.0. This was ordered and 
she was discharged. During her stay she also underwent carotid 
ultrasound which showed no significant plaque. She was 
hemodynamically stable and her neurologic exam as well as her 
oxygen saturations were stable throughout her admission. 

 
Medications on Admission:
at rehab:
baclofen 10mg tid
litiazem 60mg tid
pepcid 20mg bid
atenolol 100mg bid
colace 100mg bid
mvi 5ml qd
senna 5ml qd
zocor 10mg qd
celexa 40mg qd
coumadin 4mg qd
 
Discharge Medications:
1. Docusate Sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day) as needed for constipation.  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
3. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).  
6. Diltiazem HCl 30 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day): this is current dose per rehab. 60mg tid.  
7. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day): current dose per rehab.  
8. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily): 
current med per rehab.  
9. Baclofen 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day): current med per rehab.  
10. Therapeutic Multivitamin     Liquid Sig: Five (5) ML PO 
DAILY (Daily).  
11. Lovenox ___ mg/mL Syringe Sig: One (1)  Subcutaneous twice a 
day.
Disp:*60 * Refills:*6*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Deep Venous Thrombosis
Failure of coumadin therapy

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory with assistance (baseline)

 
Discharge Instructions:
You were transfered to ___ because you had a deep venous 
thrombosis (a blood clot in the deep vein of your leg) despite 
having a therapeutic INR.  We placed an Inferior Vena Cava 
filter ( a filter in the large blood vessel that returns blood 
to your heart). This will capture any clot from your venous 
system and prevent it from traveling to your heart and being 
pumped into your arterial system)

  Please report any of the following to your facility provider 
___ your vascular or neurology physicial:
  Dizziness or lightheadedness
  Numbness or tingling
  Change in vision
  Confusion
  Headache unrelieved by otc medications
  Weakness in arm, leg, or face
  Increased difficulty walking
  Increased difficulty talking
  Increased difficulty with balance
  Incontinence of urine or stool

It is very important that you keep your follow up appointments 
with specialists at ___.  Please be sure to keep all follow up 
appointments as scheduled below.  Your family can transport you 
to these appointments, or you can arrange for a chair transport 
with the help ___. 

YOU WILL NOT TAKE COUMADIN, YOU HAVE A HIGHT INR. WHEN YOUR INR 
IS LESS THEN ___ YOU WILL BEGIN LOVENOX INJECTIONS. THIS WILL BE 
DONE TWICE A DAY.
 
Followup Instructions:
___